US07923450B2
3-[2-Ethoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-phenyl]-1-ethyl-5-methyl-3H-imidazol-1-ium iodide
Potassium carbonate (41.5 mg, 0.3 mmol) was added to a solution of 2-(4-methyl-imidazol-1-yl)-5-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-phenol (60.4 mg, 0.15 mmol), iodoethane (15 uL, 0.18 mmol) in acetonitrile (1.5 mL). The reaction was refluxed over night and the solvent was removed under reduced pressure. The residue was purified on silica gel using dichloromethane/methanol/concentrated aqueous ammonia (9:1:0.1 v/v/v) as eluent to yield the title compound (29 mg, 45%) as a beige solid. MS ISP (m/e): 459.4 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.39 (s, 1H), 9.31 (s, 1H), 7.83 (s, 1H), 7.67 (s, 1H), 7.34 (d, 1H), 7.29 (t, 2H), 7.14-7.21 (m, 3H), 6.82 (d, 1H), 4.18 (q, 2H), 3.99 (m, 1H), 3.59 (dq, 1H), 3.50 (dq, 1H), 2.64-2.82 (m, 2H), 2.34 (s, 3H), 2.17 (m, 1H), 1.90 (m, 1H), 1.76 (m, 2H), 1.43 (t, 3H), 1.14 (t, 3H).

reactant | Potassium carbonate | 0.3 mmol, 41.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-methyl-imidazol-1-yl)-5-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-phenol | 0.15 mmol, 60.4 mg | CC=1N=CN(C1)C1=C(C=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2)O | C23H22N4OS
reactant | iodoethane | 0.18 mmol, 15 uL | ICC | C2H5I
reactant | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 3-[2-Ethoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-phenyl]-1-ethyl-5-methyl-3H-imidazol-1-ium iodide | 29 mg, 45% | [I-].C(C)OC1=C(C=CC(=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2)N2C=[N+](C(=C2)C)CC | InChI=1S/C27H31N4OS.HI/c1-4-30-18-31(17-19(30)3)23-15-14-21(16-24(23)32-5-2)28-27-29-26-22(12-9-13-25(26)33-27)20-10-7-6-8-11-20;/h6-8,10-11,14-18,22H,4-5,9,12-13H2,1-3H3,(H,28,29);1H/q+1;/p-1
